US08076488B2
Preparation of N-{4-[(2-acetylpyridin-4-yl)oxy]phenyl}-N′-(1-methyl-1H-indazol-5-yl)urea
To a solution of 1-methyl-5-aminoindazole (48.4 mg, 0.33 mmol) in anhydrous DCE (1.1 mL) and anhydrous THF (1.1 mL) was added 1,1′-carbonyldiimidazole (65.1 mg, 0.39, 1.2 eq), and the reaction mixture was stirred at 65° C. under argon. After 16 h a solution of 1-[4-(4-aminophenoxy)pyridin-2-yl]ethanone (75 mg, 0.33 mmol, 1.0 eq) in anhydrous DCE (3.3 mL) was added at ambient temperature, and the reaction mixture was stirred at 65° C. under argon for 20 h. The reaction mixture was partitioned between EtOAc and water, and the organic layer was washed with water and brine, dried over Na2SO4, filtered, and concentrated under reduced pressure. Purification on MPLC (biotage) eluted with 60 to 80% EtOAc/Hex and crystallization from ethyl acetate—hexane afforded 98.2 mg (74.4%) of the title compound as a white solid. 1H-NMR (DMSO-d6) δ 8.79 (s, 1H), 8.68 (s, 1H), 8.58 (d, J=5.7 Hz, 1H), 7.93 (d, J=1.0 Hz, 1H), 7.89 (d, J=1.2 Hz, 1H), 7.58 to 7.53 (m, 3H), 7.35 (dd, J=9.0, 2.1 Hz, 1H), 7.26 (d, J=2.7 Hz, 1H), 7.21 (dd, J=5.4, 2.4 Hz, 1H), 7.13 (d, J=8.7 Hz, 2H), 3.99 (s, 3H), 2.59 (s, 3H); MS LC-MS [M+H]+=4.02, RT=2.41 min; TLC (75% EtOAc/Hex), Rf=0.11.

reactant | 1-methyl-5-aminoindazole | 0.33 mmol, 48.4 mg | CN1N=CC2=CC(=CC=C12)N | C8H9N3
reactant | 1,1′-carbonyldiimidazole | 65.1 mg, 1.2 eq | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-[4-(4-aminophenoxy)pyridin-2-yl]ethanone | 0.33 mmol, 75 mg, 1.0 eq | NC1=CC=C(OC2=CC(=NC=C2)C(C)=O)C=C1 | C13H12N2O2
solvent | DCE | 1.1 mL | ClCCCl | C2H4Cl2
solvent | THF | 1.1 mL | C1CCOC1 | C4H8O
solvent | DCE | 3.3 mL | ClCCCl | C2H4Cl2
product | N-{4-[(2-acetylpyridin-4-yl)oxy]phenyl}-N′-(1-methyl-1H-indazol-5-yl)urea | 98.2 mg, 74.4% | C(C)(=O)C1=NC=CC(=C1)OC1=CC=C(C=C1)NC(=O)NC=1C=C2C=NN(C2=CC1)C | C22H19N5O3
